US05130318
(Example 49A): A solution of acetyl chloride (79 mg) in dichloromethane (1 ml) was added to a solution of 3-aminomethyl-2,6-dimethyl-4-[(2'-(2-triphenylmethyl-2H-tetrazol-5-yl)biphenyl-4-yl)methoxy]pyridine (628 mg) and triethylamine (101 mg) in dichloromethane (15 ml). The solution was left to stand for 1 hour and then water (15 ml) was added. The organic phase was separated, washed with saturated sodium chloride solution (15 ml) and then dried (MgSO4). The solvent was removed by evaporation and the residue was purified by flash chromatography, eluting with methanol/dichloromethane (1:19 v/v) to give 3-acetamidomethyl-2,6-dimethyl-4-[(2'-(2-triphenylmethyl-2H-tetrazol-5-yl)biphenyl-4-yl)methoxy]pyridine (594 mg), as a foam; NMR (CDCl3): 1.8(s,3H), 2.5(s,3H), 2.6(s,3H), 4.45(d,2H), 5.0(s,2H), 5.6(br t, 1H), 6.6(s,1H), 6.9-7.0(m, 6H), 7.25-7.6 (complex m,16H), 7.95(dd,1H).

reactant | acetyl chloride | 79 mg | C(C)(=O)Cl | C2H3ClO
reactant | 3-aminomethyl-2,6-dimethyl-4-[(2'-(2-triphenylmethyl-2H-tetrazol-5-yl)biphenyl-4-yl)methoxy]pyridine | 628 mg | NCC=1C(=NC(=CC1OCC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)C | C41H36N6O
reactant | triethylamine | 101 mg | C(C)N(CC)CC | C6H15N
reactant | water | 15 ml | O | H2O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 3-acetamidomethyl-2,6-dimethyl-4-[(2'-(2-triphenylmethyl-2H-tetrazol-5-yl)biphenyl-4-yl)methoxy]pyridine | 594 mg | C(C)(=O)NCC=1C(=NC(=CC1OCC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)C | C43H38N6O2
